US08106043B2
N-(4-(2-(Pyrrolidin-1-yl)ethyl)-3,4-dihydro-2H-benzo[b][1,4]thiazin-7-yl)thiophene-2-carboximidamide dihydrochloride:
To a stirred solution of N-(4-(2-(pyrrolidin-1-yl)ethyl)-3,4-dihydro-2H-benzo[b][1,4]thiazin-7-yl)thiophene-2-carboximidamide (0.3524 g, 0.946 mmol) in MeOH (2 mL) was added 1M HCl in ether (4.73 mL, 4.73 mmol) at room temperature. The mixture was stirred for 5 minutes under argon atmosphere and was then concentrated to give a yellow foam (0.646 g, quantitative). 1H NMR (DMSO-d6) δ 11.51 (s, 1H), 11.23 (s, 1H), 9.68 (s, 1H), 8.69 (s, 1H), 8.15-8.11 (m, 2H), 7.37-7.34 (m, 1H), 7.08 (d, J=9.3 Hz, 1H), 7.00 (d, J=8.4 Hz, 1H), 3.81-3.76 (m. 2H), 3.66-3.64 (m, 2H), 3.56-3.46 (m, 2H), 3.33-3.30 (m, 2H), 3.13-3.10 (m, 2H), 3.06-3.00 (m, 2H), 2.00-1.86 (m, 4H); ESI-MS (m/z, %): 375, 373 (MH+, free base, 66), 278, 276 (100), 98 (21); HRMS (C19H25N4S2, MH+, Free base): calculated: 373.1515, observed: 373.1518. HPLC: 98% by area.

reactant | N-(4-(2-(pyrrolidin-1-yl)ethyl)-3,4-dihydro-2H-benzo[b][1,4]thiazin-7-yl)thiophene-2-carboximidamide | 0.946 mmol, 0.3524 g | N1(CCCC1)CCN1C2=C(SCC1)C=C(C=C2)NC(=N)C=2SC=CC2 | C19H24N4S2
reactant | HCl | 1M | Cl | ClH
reactant | ether | 4.73 mmol, 4.73 mL | CCOCC | C4H10O
solvent | MeOH | 2 mL | CO | CH4O
product | N-(4-(2-(Pyrrolidin-1-yl)ethyl)-3,4-dihydro-2H-benzo[b][1,4]thiazin-7-yl)thiophene-2-carboximidamide dihydrochloride | Cl.Cl.N1(CCCC1)CCN1C2=C(SCC1)C=C(C=C2)NC(=N)C=2SC=CC2 | InChI=1S/C19H24N4S2.2ClH/c20-19(17-4-3-12-24-17)21-15-5-6-16-18(14-15)25-13-11-23(16)10-9-22-7-1-2-8-22;;/h3-6,12,14H,1-2,7-11,13H2,(H2,20,21);2*1H
